US08067408B2
[(3-Bromo-4-chlorophenyl)methyl]amine
To 3-bromo-4-chlorobenzamide (1.6 g, 6.8 mmol) in THF (10 mL) was added borane dimethyl sulfide complex (1.36 mL, 13.6 mmol) at room temperature. The mixture was then heated to 60° C. for 8 days. The solvent was pumped off and the reaction cautiously quenched with ethanol. When bubbling ceased, 1N HCl was added until pH was ˜2. The mixture was stirred at 50° C. for 4 h. The mixture was partitioned between EtOAc and water. The aqueous phase was washed 3× with EtoAC. The aqueous was then adjusted to pH 10 with 2N NaOH and extracted 3× with EtOAc. The combined organics phases were washed with brine (1×) and dried over anhydrous Na2SO4, filtered, and concentrated to afford the title compound as a clear oil. LC-MS m/z 219.6 (M+H)+, 1.41 min (ret time).

reactant | 3-bromo-4-chlorobenzamide | 6.8 mmol, 1.6 g | BrC=1C=C(C(=O)N)C=CC1Cl | C7H5BrClNO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | [(3-Bromo-4-chlorophenyl)methyl]amine | BrC=1C=C(C=CC1Cl)CN | C7H7BrClN
